US07615532B2
Mono-methyl hexadecandioate (275 mg, 0.91 mmol) was dissolved in THF (3 ml) and treated with succinimidyl tetramethyluroniumtetrafluoroborate (331 mg, 1.1 mmol) and N,N-diisopropylethylamine (188 μL, 1.1 mmol), and the mixture was stirred for 20 hours. The solvent was removed in vacuo, and the residue was dissolved in ethyl acetate and washed with 0.1 M HCl (twice) and water. The organic phase was dried over MgSO4, filtered and evaporated in vacuo to give 350 mg (96%) of methyl succinimidyl hexadecandioate.

reactant | Mono-methyl hexadecandioate | 0.91 mmol, 275 mg | C(CCCCCCCCCCCCCCC(=O)[O-])(=O)OC
reactant | succinimidyl tetramethyluroniumtetrafluoroborate | 1.1 mmol, 331 mg | F[B-](F)(F)F.C1(CCC(N1OC(=[N+](C)C)N(C)C)=O)=O
reactant | N,N-diisopropylethylamine | 1.1 mmol, 188 μL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | methyl succinimidyl hexadecandioate | 350 mg, 96% | C(CCCCCCCCCCCCCCC(=O)ON1C(CCC1=O)=O)(=O)OC | C21H35NO6
